US04195023
5 G (0.015 mole) of bis(2-chlorocarbonylphenyl)disulfide is suspended in 500 ml of carbon tetrachloride (CCl4) and treated with chlorine gas until all solids are dissolved (about 0.5 hours). The solution is then concentrated under vacuum and the residue is taken up in 45 ml of carbon tetrachloride (CCl4). 3.0 G (0.027 mole) of 2-furoylamide in 50 ml of benzene is added to the solution. The solution is aged 10 minutes, concentrated under vacuum and the residue is quenched in 75 ml of 2.5 N hydrochloric acid. The precipitate is isolated and washed well with water to yield 2.5 g of 2-(2-furoyl)-3-oxo-1,2-benzisothiazoline m.p. 157°-161° C. The 2-(2-furoyl)-3-oxo-1,2-benzisothiazoline is recrystallized from toluene, washed with hexane, and dried giving a m.p. of 160°-161° C.

reactant | bis(2-chlorocarbonylphenyl)disulfide | 0.015 mole | ClC(=O)C1=C(C=CC=C1)SSC1=C(C=CC=C1)C(=O)Cl | C14H8Cl2O2S2
reactant | chlorine | ClCl | Cl2
reactant | 2-furoylamide | 0.027 mole | O1C(=CC=C1)C(=O)[NH-]
solvent | carbon tetrachloride | 500 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 2-(2-furoyl)-3-oxo-1,2-benzisothiazoline | 2.5 g | O1C(=CC=C1)C(=O)N1SC2=C(C1=O)C=CC=C2 | C12H7NO3S
